US05556969
3(R,S)-[(Benzyloxycarbonyl)amino]-5-cycloheptyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one (435 mg) was treated with a solution of 30% hydrogen bromide in glacial acetic add (10 ml) and stirred for 20 min at room temperature. The mixture was then added dropwise onto cold (0° C.) diethyl ether (50 ml). A white solid precipitated which was filtered off. The solid was treated with 10% sodium hydroxide solution (50 ml), then extracted with ethyl acetate (80 ml). The organic layer was separated, dried (Na2SO4) and evaporated to give crude 3(R,S)-amino-5-cycloheptyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one as a colourless oil.

reactant | 3(R,S)-[(Benzyloxycarbonyl)amino]-5-cycloheptyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 435 mg | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)C1CCCCCC1)C=CC=C2)C)=O | C25H29N3O3
reactant | hydrogen bromide | Br | BrH
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | 3(R,S)-amino-5-cycloheptyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1CCCCCC1)C=CC=C2)C)=O | C17H23N3O
